US06949648B2
A solution of 3-methyl-1-(3-pyridinyl)-1H-pyrazol-5-ylamine dihydrochloride (11.0 g, 44.5 mmol), 2-chloro-4,5-difluorobenzoic acid (8.57 g, 44.5 mmol), copper acetate (II) (0.808 g, 4.45 mmol) and potassium carbonate (12.3 g, 89.0 mmol) in N,N-dimethylformamide (50 mL) was heated under reflux under an argon atmosphere for 3 hours. The solution was allowed to cool to room temperature, and poured into water. The solution was made weakly acidic by the addition of 1N hydrochloric acid, and the resulting crude crystals were collected by filtration. The crystals were washed with water and air dried to give crude 4,5-difluoro-2-[[3-methyl-1-(3-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid (9.24 g, 63% yield). A solution of the compound (9.24 g, 28.0 mmol) in phosphorous oxychloride (13 mL, 139 mmol) was heated under reflux for 3 hours. The solution was allowed to cool to room temperature, and the reaction solvent was concentrated and evaporated under reduced pressure. The residue was poured into iced water. The solution was neutralized by the addition of a sodium hydroxide solution, and the organic matter was extracted with chloroform. The extract was washed with saturated brine and water, and dried over anhydrous magnesium sulfate, and the solvent was evaporated under reduced pressure. The residue thus obtained was purified by silica gel column chromatography (chloroform) to give the title compound (0.77 g, 8% yield).

reactant | 3-methyl-1-(3-pyridinyl)-1H-pyrazol-5-ylamine dihydrochloride | 44.5 mmol, 11.0 g | Cl.Cl.CC1=NN(C(=C1)N)C=1C=NC=CC1
reactant | 2-chloro-4,5-difluorobenzoic acid | 44.5 mmol, 8.57 g | ClC1=C(C(=O)O)C=C(C(=C1)F)F | C7H3ClF2O2
reactant | potassium carbonate | 89.0 mmol, 12.3 g | C([O-])([O-])=O.[K+].[K+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | N,N-dimethylformamide | 50 mL | CN(C=O)C | C3H7NO
catalyst | copper acetate | 4.45 mmol, 0.808 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | water | O | H2O
product | 4,5-difluoro-2-[[3-methyl-1-(3-pyridinyl)-1H-pyrazol-5-yl]amino]benzoic acid | 9.24 g, 63% yield | FC1=CC(=C(C(=O)O)C=C1F)NC1=CC(=NN1C=1C=NC=CC1)C | C16H12F2N4O2
